US05620569
The hydroperoxide resulting from nerol can be reduced to the corresponding hydroxyl compound and this can then be cyclized with acid catalysis to give nerol oxide.

reactant | hydroperoxide | [O-]O
reactant | nerol | OC\C=C(/CCC=C(C)C)\C | C10H18O
product | nerol oxide | OCC1C(CCC=C(C)C)(C)O1 | C10H18O2
